* Model from Dave Dilatush
* lm386 subcircuit model follows:

* IC pins: 2 3 7 1 8 5 6 4
* | | | | | | | |
..subckt lm386_DD inn inp byp g1 g8 out vs gnd

* input emitter-follower buffers:

q1 gnd inn 10011 ddpnp
r1 inn gnd 50k
q2 gnd inp 10012 ddpnp
r2 inp gnd 50k

* differential input stage, gain-setting
* resistors, and internal feedback resistor:

q3 10013 10011 10008 ddpnp
q4 10014 10012 g1 ddpnp
r3 vs byp 15k
r4 byp 10008 15k
r5 10008 g8 150
r6 g8 g1 1.35k
r7 g1 out 15k

* input stage current mirror:

q5 10013 10013 gnd ddnpn 1.1
q6 10014 10013 gnd ddnpn  

* voltage gain stage & rolloff cap:

* m was 1
q7 10017 10014 gnd ddnpn 10
c1 10014 10017 15pf

* current mirror source for gain stage:

i1 10002 vs dc 5m
q8 10004 10002 vs ddpnp
q9 10002 10002 vs ddpnp

* Sziklai-connected push-pull output stage:
* m=10 for q10
q10 10018 10017 out ddpnp 10
q11 10004 10004 10009 ddnpn 100
q12 10009 10009 10017 ddnpn 100
q13 vs 10004 out ddnpn 100
q14 out 10018 gnd ddnpn 100

* generic transistor models generated
* with MicroSim's PARTs utility, using
* default parameters except Bf:

* BF was 400, Is=10f
.model ddnpn NPN(Is=10f Xti=3 Eg=1.11 Vaf=100
+ Bf=150 Ise=0 Ne=1.5 Ikf=0 Nk=.5 Xtb=1.5 Var=100
+ Br=1 Isc=0 Nc=2 Ikr=0 Rc=0 Cjc=2p Mjc=.3333
+ Vjc=.75 Fc=.5 Cje=5p Mje=.3333 Vje=.75 Tr=10n
+ Tf=1n Itf=1 Xtf=0 Vtf=10)

* BF was 200, Tf=1n, Tr=10n, Is=10f
.model ddpnp PNP(Is=10f Xti=3 Eg=1.11 Vaf=100
+ Bf=40 Ise=0 Ne=1.5 Ikf=0 Nk=.5 Xtb=1.5 Var=100
+ Br=1 Isc=0 Nc=2 Ikr=0 Rc=0 Cjc=2p Mjc=.3333
+ Vjc=.75 Fc=.5 Cje=5p Mje=.3333 Vje=.75 Tr=100n
+ Tf=10n Itf=1 Xtf=0 Vtf=10)

..ends 
